US06433359B1
To a solution of 14.6 g (35 mmol) of 1-(diethylphosphono)-3,7,11,15-tetramethylhexadecane in 40 mL of dichloromethane was added 15.0 g (98 mmol) of bromotrimethylsilane. After 24 h at room temperature, the solution was concentrated to a pale yellowish liquid, and the intermediate silylphosphonate ester was dissolved in 100 mL of methanol. The resultant solution was stirred at room temperature for 30 min and concentrated to a white solid. Dissolution in methanol and concentration were repeated two times, and recrystallization from ethyl acetate afforded 10.5 g (83%) of 1-phosphono-3,7,11,15-tetramethylhexadecane as white crystals, mp 69-72° C.

reactant | 1-(diethylphosphono)-3,7,11,15-tetramethylhexadecane | 35 mmol, 14.6 g | C(C)OP(=O)(OCC)CCC(CCCC(CCCC(CCCC(C)C)C)C)C | C24H51O3P
reactant | bromotrimethylsilane | 98 mmol, 15.0 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-phosphono-3,7,11,15-tetramethylhexadecane | 10.5 g, 83% | P(=O)(O)(O)CCC(CCCC(CCCC(CCCC(C)C)C)C)C | C20H43O3P
